US06211199B1
102.1 Synthesis of 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine
Combine (1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine (0.236 g, 0.8 mmol), 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine (prepared from (−)-3-(2-hydroxyethyl)-3-phenylpyrrolidine (R,R)-di-p-anisoyltartaric acid salt) (0.38 g, 0.80 mmol), triethylamine (0.133 mL, 7.2 mmol), and tetrabutylammonium iodide (30 mg) in acetonitrile (11.4 mL). Heat to reflux. After 42 hours, cool, dilute the reaction mixture with dichloromethane, and extract with water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with ethyl acetate to give the title compound.

reactant | (1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl)(piperidin-4-yl)amine | 0.8 mmol, 0.236 g | O1C(=CC=C1)CN1C(=NC2=C1C=CC=C2)NC2CCNCC2 | C17H20N4O
reactant | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-phenyl-3-(2-methanesulfonyloxyethyl)pyrrolidine | 0.80 mmol, 0.38 g | COC1=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C2=CC=CC=C2)C=C(C=C1)N1N=NN=C1 | C22H25N5O5S
reactant | triethylamine | 7.2 mmol, 0.133 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrabutylammonium iodide | 30 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 11.4 mL | C(C)#N | C2H3N
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(2-methoxy-5-(1H-tetrazol-1-yl)benzoyl)-3-(2-(4-(1-(fur-2-ylmethyl)-1H-benzimidazol-2-yl-amino)piperidin-1-yl)ethyl)-3-phenylpyrrolidine | COC1=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)NC2=NC3=C(N2CC=2OC=CC2)C=CC=C3)C=C(C=C1)N1N=NN=C1 | C38H41N9O3
